US04556654
2-[2-[[2-(Dimethylamino)ethyl]amino]ethyl]-5-[[2-[(2-hydroxyethyl)amino]ethyl]amino]-7,10-dihydroxyanthra-[1,9-cd]pyrazol-6(2H)-one
A mixture of 4.2 g (6.3 mmol) of 5-chloro-2-[2-[[(4-methylphenyl)sulfonyl]oxy]ethyl]-7,10-bis(phenylmethoxy)anthra[1,9-cd]pyrazol-6(2H)-one, 5.3 g (60 mmol) of N,N-dimethylethylenediamine, 17 g (12.6 mmol) of powdered potassium carbonate, and 35 ml of dimethylsulfoxide is stirred overnight at 50° C. The mixture is cooled and diluted with 50 ml of water. The solid is collected and washed with water. The solid is heated in dichloromethane, the solution filtered, then concentrated. Trituration of the residue with hot ethyl acetate gives 1.7 g of the dried product; mp 148°-153° C.

reactant | 5-chloro-2-[2-[[(4-methylphenyl)sulfonyl]oxy]ethyl]-7,10-bis(phenylmethoxy)anthra[1,9-cd]pyrazol-6(2H)-one | 6.3 mmol, 4.2 g | ClC=1C=CC=2N(N=C3C2C1C(C1=C(C=CC(=C13)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)CCOS(=O)(=O)C1=CC=C(C=C1)C | C37H29ClN2O6S
reactant | N,N-dimethylethylenediamine | 60 mmol, 5.3 g | CN(CCN)C | C4H12N2
reactant | potassium carbonate | 12.6 mmol, 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 35 ml | CS(=O)C | C2H6OS
solvent | water | 50 ml | O | H2O
product | 2-[2-[[2-(Dimethylamino)ethyl]amino]ethyl]-5-[[2-[(2-hydroxyethyl)amino]ethyl]amino]-7,10-dihydroxyanthra-[1,9-cd]pyrazol-6(2H)-one | 1.7 g | CN(CCNCCN1N=C2C3=C1C=CC(=C3C(C3=C(C=CC(=C32)O)O)=O)NCCNCCO)C | C24H32N6O4
